US05714508
2-butyl-5-[4-methoxy-benzyl-thio]-1H-imidazole-4-methanol
50 g or 143.5 mmol of ethyl 2-butyl-4-[4-methoxy-benzyl-thio]-1H-imidazole-5-carboxylate[prepared as indicated in the European Patent Application No. 0,465,368] were solubilized in 300 ml of methylene chloride and the mixture was cooled to -78° C. With stirring, 68.3 g (480 mmol) and 2N DIBAH in 400 ml of toluene were added and then the medium was allowed to return to ambient temperature for about 30 minutes. The reaction medium was hydrolyzed with 130 ml of water, filtered, washed with 500 ml of methylene chloride and then 3 times with 500 ml of a methylene chloride/methanol solution (9-1). After evaporation to dryness, 100 g (orange solid) were recovered and 500 ml of methylene chloride/methanol (9-2) were added. The insoluble white product was filtered off and the organic phase was evaporated to dryness to obtain 46.55 g of product (orange-yellow powder) which was purified on a silica column with methanol/methylene chloride (5-95) as eluant to obtain 32.49 g of the expected product.

reactant | ethyl 2-butyl-4-[4-methoxy-benzyl-thio]-1H-imidazole-5-carboxylate | 143.5 mmol | C(CCC)C=1NC(=C(N1)SCC1=CC=C(C=C1)OC)C(=O)OCC | C18H24N2O3S
reactant | DIBAH | 2N | CC(C)C[AlH]CC(C)C
reactant | water | 130 ml | O | H2O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-butyl-5-[4-methoxy-benzyl-thio]-1H-imidazole-4-methanol | 46.55 g | C(CCC)C=1NC(=C(N1)CO)SCC1=CC=C(C=C1)OC | C16H22N2O2S
